US08735440B2
Step 1: Synthesis of ethyl 6-bromo-9H-pyrido[3,4-b]indole-3-carboxylate
Following a procedure in Chem. Bio. Chem, 2009, 10, 889-895, N-bromosuccinimide (37 mg, 0.208 mmol) was added to a solution of ethyl 9H-pyrido[3,4-b]indole-3-carboxylate (50 mg, 0.208 mmol) in acetic acid (1.5 ml) and stirred at room temperature. After 45 minutes the acetic acid was removed and the solid material was partitioned between EtOAc and NaHCO3. The organic layer was washed with water, brine, and dried over Na2SO4 to afford the desired compound in 98% yield.

reactant | N-bromosuccinimide | 0.208 mmol, 37 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 9H-pyrido[3,4-b]indole-3-carboxylate | 0.208 mmol, 50 mg | C1=NC(=CC2=C1NC1=CC=CC=C21)C(=O)OCC | C14H12N2O2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | ethyl 6-bromo-9H-pyrido[3,4-b]indole-3-carboxylate | 98% yield | BrC=1C=C2C3=C(NC2=CC1)C=NC(=C3)C(=O)OCC | C14H11BrN2O2
